US07893090B2
Description 80: (RS)-2-(1-Benzofuran-2-yl-methanoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
The title compound (2.7 g) was prepared from benzofuran (2.29 g) and (RS)-2-(methoxy-methyl-carbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester, D79 (5.00 g) according to a procedure similar to that for Description 2.

reactant | benzofuran | 2.29 g | O1C=CC2=C1C=CC=C2 | C8H6O
reactant | (RS)-2-(methoxy-methyl-carbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C(N(C)OC)=O | C12H22N2O4
product | (RS)-2-(1-Benzofuran-2-yl-methanoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.7 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(=O)C=1OC2=C(C1)C=CC=C2 | C18H21NO4
